US04996218
2-Thiazolepropanol
Glacial acetic acid (16 ml) was added dropwise during 0.25 h to a stirred solution of 3-(2-thiazolyl)-2-propynol (2.4 g) and dipotassium azodicarboxylate (50 g) in pyridine (200 ml). The mixture was stirred at room temperature for 1 h and additional glacial acetic acid (40 ml) added during 0.5 h. The mixture was stirred at room temperature for 2 days. The solvent was removed by azeotropic distillation with toluene (2×100 ml) and the residue partitioned between (100 ml) and ethyl acetate (100 ml). The aqueous layer was extracted with ethyl acetate (2×50 ml) and the combined extracts dried and evaporated to leave a brown oil. This was purified by FCC eluting with toluene:ethyl acetate:triethylamine (50:50:1) to give the title compound as an orange oil (1.45 g), t.l.c. (toluene:ethyl acetate:triethylamine 50:50:1) Rf 0.15.

reactant | acetic acid | 16 ml | C(C)(=O)O | C2H4O2
reactant | 3-(2-thiazolyl)-2-propynol | 2.4 g | S1C(=NC=C1)C#CCO | C6H5NOS
reactant | dipotassium azodicarboxylate | 50 g | N(=NC(=O)[O-])C(=O)[O-].[K+].[K+]
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 2-Thiazolepropanol | 1.45 g | S1C(=NC=C1)CCCO | C6H9NOS
